US06083949
4-[5-(2-Fluoropyridin-4-yl)-1-methyl-4-(3-trifluoromethylphenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester
To a stirring solution of 4-[5-(2-fluoropyridin-4-yl)-4-(3-trifluoromethylphenyl)1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester (13.1 g, 0.025 mmole) in toluene (130 mL) was added N,N-dimethylformamide dimethyl acetal (13.1 mL). This mixture was heated to 120° C. under argon for 28 hours. The reaction was cooled, concentrated in vacuo, poured into a saturated aqueous solution of sodium bicarbonate (300 mL) which was extracted with ethyl acetate (1×1 L, 2×300 mL). The organic extracts were combined, washed with water (300 mL), brine (300 mL), dried over anhydrous sodium sulfate and concentrated to an oil. The oil was dissolved in methylene chloride (5 mL) and chromatographed on silica using 2% acetone/methylene chloride to give upon concentration of the product containing fractions the title compound 2.00 g.

reactant | 4-[5-(2-fluoropyridin-4-yl)-4-(3-trifluoromethylphenyl)1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester | 0.025 mmole, 13.1 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1NC(=C(N1)C1=CC(=CC=C1)C(F)(F)F)C1=CC(=NC=C1)F | C28H24F4N4O2
reactant | N,N-dimethylformamide dimethyl acetal | 13.1 mL | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[5-(2-Fluoropyridin-4-yl)-1-methyl-4-(3-trifluoromethylphenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester | 2.00 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1N(C(=C(N1)C1=CC(=CC=C1)C(F)(F)F)C1=CC(=NC=C1)F)C | C29H26F4N4O2
